US06348032B1
Tetramethoxymethane (0.250 g) is added to an acetic acid solution (3 ml) of N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino)benzamide (0.400 g), and the solution is stirred for two hours at 80° C. Methanol is added to the reaction solution, and precipitated crystals are collected. The crystals are washed in a mixture solvent of acetone (1 ml) and methanol (8 ml), separated through filtration, dried and thus, 6-benzenesulfonylcarbamoyl-1-(biphenyl-4-ylmethyl)-2-methoxybenzimidazole (0.280 g) is obtained. 1H-NMR (DMSO-d6, δ): 4.17 (3H, s), 5.33 (2H, s), 7.30 (2H, d, J=8.2 Hz), 7.35 (1H, t, J=7.4 Hz), 7.44 (2H, t, J=7.5 Hz), 7.50 (1H, d, J=8.4 Hz), 7.60-7.65 (6H, m), 7.68-7.72 (2H, m), 7.98-8.01 (2H, m), 8.05 (1H, d, J=1.5 Hz), 8.18 (1H, s), 12.50 (1H, s).

reactant | Tetramethoxymethane | 0.250 g | COC(OC)(OC)OC | C5H12O4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | N-benzenesulfonyl-4-amino-3-(biphenyl-4-ylmethylamino)benzamide | 0.400 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)N)NCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H23N3O3S
solvent | Methanol | CO | CH4O
product | 6-benzenesulfonylcarbamoyl-1-(biphenyl-4-ylmethyl)-2-methoxybenzimidazole | 0.280 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C=CC2=C(N(C(=N2)OC)CC2=CC=C(C=C2)C2=CC=CC=C2)C1 | C28H23N3O4S
